US07135462B2
Preparation of (1(S)-{2(S)-[1(R)-(1-Ethyl-cyclopropanesulfonylaminocarbonyl)-2(S)-vinyl-cyclopropylcarbamoyl]-4-hydroxy-pyrrolidine-1-carbonyl}-2,2-dimethyl-propyl)-carbamic acid isopropyl ester
A solution of 2(S)-[1 (R)-(1-ethyl-cyclopropanesulfonylaminocarbonyl)-2(S)-vinyl-cyclopropylcarbamoyl]-N-[N-Boc-amino-(S)-t-butyl-acetyl]-4(R)-hydroxy-pyrrolidine (585 mg, 1.0 mmol) in TFA (2 ml) and CH2Cl2 (2 ml) was stirred at room temperature for 1 h and concentrated in vacuo. The residue was dissolved in CH2Cl2 (5 ml) and isopropyl chloroformate (1.0M in toluene, 1.0 ml, 1.0 mmol), DIPEA (0.5 ml) were added. The resulting mixture was stirred at room temperature overnight and the solvent was removed in vacuo. The crude product was purified by flash column chromatograph (Biotage Flash 40M) eluted with EtOAc to provide the title compound (180 mg, 32%). MS 571 (M+H)+.

reactant | 2(S)-[1 (R)-(1-ethyl-cyclopropanesulfonylaminocarbonyl)-2(S)-vinyl-cyclopropylcarbamoyl]-N-[N-Boc-amino-(S)-t-butyl-acetyl]-4(R)-hydroxy-pyrrolidine | 1.0 mmol, 585 mg | C(C)C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@H]1N(C[C@@H](C1)O)C([C@H](C(C)(C)C)NC(=O)OC(C)(C)C)=O | C27H44N4O8S
reactant | isopropyl chloroformate | 1.0 mmol, 1.0M, 1.0 ml | ClC(=O)OC(C)C | C4H7ClO2
reactant | DIPEA | 0.5 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | (1(S)-{2(S)-[1(R)-(1-Ethyl-cyclopropanesulfonylaminocarbonyl)-2(S)-vinyl-cyclopropylcarbamoyl]-4-hydroxy-pyrrolidine-1-carbonyl}-2,2-dimethyl-propyl)-carbamic acid isopropyl ester | 180 mg, 32% | C(C)(C)OC(N[C@@H](C(C)(C)C)C(=O)N1[C@@H](CC(C1)O)C(N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)C1(CC1)CC)=O)=O | C26H42N4O8S
